US07453010B2
8.1: trans-4-[4-(Benzyl{(2S)-3-[4-(benzyloxy)-3-(methylsulfonyl)phenoxy]-2-hydroxypropyl}amino)cyclohexyl]-N-(4-fluorobenzyl)benzamide
A solution of 0.3 g (0.441 mmol) of trans-4-[4-(benzyl{(2S)-3-[4-(benzyloxy)-3-(methylsulfonyl)phenoxy]-2-hydroxypropyl}amino)cyclohexyl]benzoic acid (preparation 4), of 0.78 g (0.91 mmol) of 1-hydroxybenzotriazole, of 0.169 g (0.88 mmol) of 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride, of 0.184 ml of triethylamine and of 0.11 g (0.88 mmol) of 4-fluorobenzylamine in a mixture of 4 ml of dichloromethane and 0.8 ml of acetonitrile is stirred for 48 h. The solvents are evaporated under reduced pressure. Dichloromethane and water are added and the organic phase is washed three times with water. The organic phases are dried over magnesium sulfate and concentrated under reduced pressure. The product is obtained in the form of a white solid (0.232 g, 70%) after purification on silica gel (eluent: heptane/ethyl acetate 60/40 for 10 min, 60/40 to 40/60 in 10 min and then 40/60 for 20 min gradient). [M+H+]=751.5

reactant | trans-4-[4-(benzyl{(2S)-3-[4-(benzyloxy)-3-(methylsulfonyl)phenoxy]-2-hydroxypropyl}amino)cyclohexyl]benzoic acid | 0.441 mmol, 0.3 g | C(C1=CC=CC=C1)N([C@@H]1CC[C@H](CC1)C1=CC=C(C(=O)O)C=C1)C[C@@H](COC1=CC(=C(C=C1)OCC1=CC=CC=C1)S(=O)(=O)C)O | C37H41NO7S
reactant | 1-hydroxybenzotriazole | 0.91 mmol, 0.78 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 0.88 mmol, 0.169 g | Cl.C(C)N=C=NCCCN(C)C
reactant | 4-fluorobenzylamine | 0.88 mmol, 0.11 g | FC1=CC=C(CN)C=C1 | C7H8FN
solvent | dichloromethane | 4 ml | ClCCl | CH2Cl2
solvent | acetonitrile | 0.8 ml | C(C)#N | C2H3N
solvent | triethylamine | 0.184 ml | C(C)N(CC)CC | C6H15N
product | trans-4-[4-(Benzyl{(2S)-3-[4-(benzyloxy)-3-(methylsulfonyl)phenoxy]-2-hydroxypropyl}amino)cyclohexyl]-N-(4-fluorobenzyl)benzamide | 0.232 g, 70% | C(C1=CC=CC=C1)N([C@@H]1CC[C@H](CC1)C1=CC=C(C(=O)NCC2=CC=C(C=C2)F)C=C1)C[C@@H](COC1=CC(=C(C=C1)OCC1=CC=CC=C1)S(=O)(=O)C)O | C44H47FN2O6S
